US06703397B2
5-(4-Ethoxy-1H-indol-6-ylmethyl)-pyrimidine-2,4-diamine.
5-[4-Ethoxy-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-6-ylmethyl]-pyrimidine-2,4-diamine. A warm solution of potassium tert-butylate (900 mg, 8.02 mmol) in tert-butanol (7.5 mL) was added at room temperature to a solution of 4-ethoxy-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-6-carbaldehyde (2.14 g, 6.69 mmol) and 3-anilinopropionitrile (1.08 g, 7.36 mmol) in methyl sulfoxide (25 mL). After 90 min the solution was treated with water and the suspension formed was stirred for 2 h. The precipitate was collected by filtration and dried. This material was added to a suspension of guanidine hydrochloride (1.90 g, 19.9 mmol) and potassium tert-butylate (2.23 g, 19.9 mmol) in ethanol (100 mL), and the reaction mixture was refluxed for 16 h, then most of the solvent was distilled off, and ether (50 mL) was added. Insoluble material was removed by filtration, the filtrate was washed with water, dried (MgSO4), and evaporated. The residue was washed with diethyl ether/n-hexane 4:3 (70 mL) to afford the title compound (1.71 g, 62%). Light brown solid.

reactant | 5-[4-Ethoxy-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indol-6-ylmethyl]-pyrimidine-2,4-diamine | C(C)OC1=C2C=CN(C2=CC(=C1)CC=1C(=NC(=NC1)N)N)COCC[Si](C)(C)C | C21H31N5O2Si
reactant | potassium tert-butylate | 8.02 mmol, 900 mg | CC(C)(C)[O-].[K+]
reactant | 4-ethoxy-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole-6-carbaldehyde | 6.69 mmol, 2.14 g | C(C)OC1=C2C=CN(C2=CC(=C1)C=O)COCC[Si](C)(C)C | C17H25NO3Si
reactant | 3-anilinopropionitrile | 7.36 mmol, 1.08 g | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | guanidine hydrochloride | 19.9 mmol, 1.90 g | Cl.NC(=N)N
reactant | potassium tert-butylate | 19.9 mmol, 2.23 g | CC(C)(C)[O-].[K+]
solvent | tert-butanol | 7.5 mL | C(C)(C)(C)O | C4H10O
solvent | methyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(4-Ethoxy-1H-indol-6-ylmethyl)-pyrimidine-2,4-diamine | 1.71 g, 62% | C(C)OC1=C2C=CNC2=CC(=C1)CC=1C(=NC(=NC1)N)N | C15H17N5O
